### PR TITLE
[Merged by Bors] - feat: port Analysis.Normed.Group.AddTorsor

### PR DESCRIPTION
**Pull request by mcdoll**
---

- [x] depends on: #2866 
- [x] depends on: #2923 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#2866~~
* ~~leanprover-community/mathlib4#2923~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
Potentially another victim of https://github.com/leanprover/lean4/issues/2055?

**Comment by Parcly-Taxel** [comment]
> Potentially another victim of [leanprover/lean4#2055](https://github.com/leanprover/lean4/issues/2055)?

It's not! :smile_cat:

File: Mathlib/Analysis/Normed/Group/AddTorsor.lean [hunk 1]
```diff
@@ -210,9 +212,12 @@ theorem LipschitzWith.vadd [PseudoEMetricSpace α] {f : α → V} {g : α → P}
       edist_vadd_vadd_le _ _ _ _
     _ ≤ Kf * edist x y + Kg * edist x y := (add_le_add (hf x y) (hg x y))
     _ = (Kf + Kg) * edist x y := (add_mul _ _ _).symm
-    
+
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/AddTorsor.lean:215]:
```suggestion
```

File: Mathlib/Analysis/Normed/Group/AddTorsor.lean [hunk 2]
```diff
@@ -145,35 +145,38 @@ theorem dist_vsub_vsub_le (p₁ p₂ p₃ p₄ : P) :
 
 theorem nndist_vadd_vadd_le (v v' : V) (p p' : P) :
     nndist (v +ᵥ p) (v' +ᵥ p') ≤ nndist v v' + nndist p p' := by
-  simp only [← NNReal.coe_le_coe, NNReal.coe_add, ← dist_nndist, dist_vadd_vadd_le]
+  simp only [← NNReal.coe_le_coe, NNReal.coe_add, ← dist_nndist]
+  exact dist_vadd_vadd_le v v' p p'
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/AddTorsor.lean:149]: It's a bit concerning that a lot of `simp`s in this file don't work any more.

File: Mathlib/Analysis/Normed/Group/AddTorsor.lean [hunk 3]
```diff
@@ -210,9 +212,12 @@ theorem LipschitzWith.vadd [PseudoEMetricSpace α] {f : α → V} {g : α → P}
       edist_vadd_vadd_le _ _ _ _
     _ ≤ Kf * edist x y + Kg * edist x y := (add_le_add (hf x y) (hg x y))
     _ = (Kf + Kg) * edist x y := (add_mul _ _ _).symm
-    
+
 #align lipschitz_with.vadd LipschitzWith.vadd
 
+-- Porting note: lean fails to find this instance
+instance Function.instAddTorsor : AddTorsor (α → V) (α → P) := Pi.instAddTorsorForAllForAllAddGroup
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/AddTorsor.lean:220]: If I remove this everything keeps working.

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/AddTorsor.lean:220]: In fact, `instance Function.instAddTorsor : AddTorsor (α → V) (α → P) := by infer_instance` now succeeds; so I think this line can be removed?

Comment (Parcly-Taxel) [reply Mathlib/Analysis/Normed/Group/AddTorsor.lean]: Indeed the extra instance can be entirely removed.

There are still two `simp` replacements without corresponding porting notes.

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/AddTorsor.lean]: I would prefer to wait for @mcdoll to confirm whether there was a other reason for this instance

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/AddTorsor.lean]: > There are still two simp replacements without corresponding porting notes.

can you add PR comments on these to draw attention to them?

File: Mathlib/Analysis/Normed/Group/AddTorsor.lean [hunk 4]
```diff
@@ -97,7 +95,8 @@ theorem dist_vadd_cancel_right (v₁ v₂ : V) (x : P) : dist (v₁ +ᵥ x) (v
 #align dist_vadd_cancel_right dist_vadd_cancel_right
 
 @[simp]
-theorem dist_vadd_left (v : V) (x : P) : dist (v +ᵥ x) x = ‖v‖ := by simp [dist_eq_norm_vsub V _ x]
+theorem dist_vadd_left (v : V) (x : P) : dist (v +ᵥ x) x = ‖v‖ := by
+  rw [dist_eq_norm_vsub V _ x, vadd_vsub]
```
Comment (Parcly-Taxel) [inline Mathlib/Analysis/Normed/Group/AddTorsor.lean:99]:
```suggestion
theorem dist_vadd_left (v : V) (x : P) : dist (v +ᵥ x) x = ‖v‖ := by
  -- Porting note: was `simp [dist_eq_norm_vsub V _ x]`
  rw [dist_eq_norm_vsub V _ x, vadd_vsub]
```

File: Mathlib/Analysis/Normed/Group/AddTorsor.lean [hunk 5]
```diff
@@ -48,25 +48,23 @@ variable {α V P W Q : Type _} [SeminormedAddCommGroup V] [PseudoMetricSpace P]
   [NormedAddCommGroup W] [MetricSpace Q] [NormedAddTorsor W Q]
 
 instance (priority := 100) NormedAddTorsor.to_isometricVAdd : IsometricVAdd V P :=
-  ⟨fun c => Isometry.of_dist_eq fun x y => by simp [NormedAddTorsor.dist_eq_norm']⟩
+  ⟨fun c => Isometry.of_dist_eq fun x y => by
+    rw [NormedAddTorsor.dist_eq_norm', NormedAddTorsor.dist_eq_norm', vadd_vsub_vadd_cancel_left]⟩
```
Comment (Parcly-Taxel) [inline Mathlib/Analysis/Normed/Group/AddTorsor.lean:52]:
```suggestion
  ⟨fun c => Isometry.of_dist_eq fun x y => by
    -- Porting note: was `simp [NormedAddTorsor.dist_eq_norm']`
    rw [NormedAddTorsor.dist_eq_norm', NormedAddTorsor.dist_eq_norm', vadd_vsub_vadd_cancel_left]⟩
```

File: Mathlib/Analysis/Normed/Group/AddTorsor.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/Normed/Group/AddTorsor.lean]: :arrow_down:

Comment (mcdoll) [reply Mathlib/Analysis/Normed/Group/AddTorsor.lean]: Sorry, I missed your ping Eric. I did not add any porting notes, since I don't think these proofs are necessarily worse than the original ones, but if you want to have them, that's fine with me too.

File: Mathlib/Analysis/Normed/Group/AddTorsor.lean (hunk 2 above)
Comment (mcdoll) [reply Mathlib/Analysis/Normed/Group/AddTorsor.lean]: The whole `vadd` and `vsub` stuff seems rather tedious to port. I can definitively see that there might be ways to improve this part of the library, but it is probably a project for after the port.

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/AddTorsor.lean]: I think this is a problem with simp itself, not the library

**Comment by semorrison** [comment]
bors merge
